US07820707B2
2-(2-(4-(1-(methylamino)ethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide
To MeOH (1.5 mL) was added 2M methylamine in THF (0.724 mL, 1.448 mmol). Acetic acid was added to the mixture to adjust the pH to 4-5. 2-(2-(4-acetyl-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide (50 mg, 0.121 mmol) and sodium cyanoborohyde (7.58 mg, 0.121 mmol) were added before heating the reaction to 100° C. for 30 min by microwave irradiation. The reaction mixture was quenched with water before purification by preparative reverse phase HPLC. The product fractions were acidified to pH 3 with acetic acid before applying to a strong cation exchange cartridge (500 mg). The cartridge was washed with DCM/MeOH (1:1) before eluting the product with 2M NH3 in MeOH. The solvent was removed in vacuo to give the title compound (7.1 mg, 0.017 mmol, 14%).

reactant | methylamine | 2M | CN | CH5N
reactant | THF | 1.448 mmol, 0.724 mL | C1CCOC1 | C4H8O
reactant | 2-(2-(4-acetyl-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 0.121 mmol, 50 mg | C(C)(=O)C=1C(=NN(C1)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N)C(F)(F)F | C17H17F3N4O3S
reactant | sodium | [Na] | Na
solvent | Acetic acid | C(C)(=O)O | C2H4O2
solvent | MeOH | 1.5 mL | CO | CH4O
product | 2-(2-(4-(1-(methylamino)ethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 0.017 mmol, 7.1 mg, 14% | CNC(C)C=1C(=NN(C1)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N)C(F)(F)F | C18H22F3N5O2S
